US05532240
A mixture of 0.8 g of 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 20 ml of 16.8% dimethylamine-ethanol solution in a pressure bottle was stirred at 80° C. for 5 hours and then the solvent was distilled away. To the residue was added water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated in vacuo to give 0.4 g of 6-acetyl-3-(2-dimethylaminoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil.

reactant | 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.8 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCl | C12H16ClNOS
reactant | dimethylamine ethanol | 20 ml | CNC.C(C)O
product | 6-acetyl-3-(2-dimethylaminoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.4 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN(C)C | C14H22N2OS
